US07705028B2
5a) 3-(2,6-dichlorophenyl)-1-propanol
A solution of 3-(2,6-dichlorophenyl)propanoic acid (5.00 g, 22.8 mmol) in THF (114 mL) was stirred at room temperature as triethylamine (3.2 mL, 22.8 mmol) was added. The solution was then cooled in an ice/water bath before the addition of a 1 M solution of isopropylchloroformate in toluene (22.8 mL, 22.8 mmol). After 30 minutes the mixture was filtered into a mixture of sodium borohydride (1.13 g, 30 mmol) in water (8 mL). The resulting mixture was stirred in an ice/water bath and allowed to warm slowly to room temperature. The mixture was allowed to stir at room temperature overnight, then was filtered. The filtrate was partitioned between brine and ethyl acetate. The organic layer was dried with MgSO4, filtered, and concentrated. The residue was purified by chromatography (silica gel, 3:7 ethyl acetate:hexanes) to provide the title compound (3.85 g, 77% as •0.17 EtOAc). 1H NMR (d6-DMSO): δ 7.41 (d, J=8 Hz, 2H), 7.22 (t, J=8 Hz, 1H), 4.57 (t, J=5 Hz, 1H), 3.48-3.43 (m, 2H), 2.88-2.84 (m, 2H), 1.65-1.58 (m, 2H).

reactant | 3-(2,6-dichlorophenyl)propanoic acid | 22.8 mmol, 5.00 g | ClC1=C(C(=CC=C1)Cl)CCC(=O)O | C9H8Cl2O2
reactant | triethylamine | 22.8 mmol, 3.2 mL | C(C)N(CC)CC | C6H15N
reactant | isopropylchloroformate | C(C)(C)OC(=O)Cl | C4H7ClO2
reactant | toluene | 22.8 mmol, 22.8 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium borohydride | 30 mmol, 1.13 g | [BH4-].[Na+]
solvent | THF | 114 mL | C1CCOC1 | C4H8O
solvent | water | 8 mL | O | H2O
product | 3-(2,6-dichlorophenyl)-1-propanol | 3.85 g, 77% | ClC1=C(C(=CC=C1)Cl)CCCO | C9H10Cl2O
